US06982278B2
A mixture of 2-(4-{2-[2-(4-benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester (8.16 g, 15.8 mmol) and 5% palladium on carbon (1.63 g) in tetrahydrofuran (100 mL) and methanol (100 mL) was purged successively with nitrogen then hydrogen, and then stirred under a hydrogen balloon at room temperature for 18 h. The reaction mixture was filtered through hyflo and solvent was removed from the filtrate in vacuo to give an oil which was dissolved in EtOAc and dried (MgSO4). The solvent was removed in vacuo to afford 6.40 g (95%) of 2-(4-{2-[2-(4-hydroxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester. 1H NMR (500 MHz, CDCl3) δ 8.25 (bs, 1H), 7.32 (d, 2H, J=8.79 Hz), 6.75-6.67 (m, 4H), 6.65 (d, 2H, J=8.79 Hz), 4.17 (q, 2H, J=6.84 Hz), 4.09 (t, 2H, J=6.35 Hz), 2.88 (t, 2H, J=6.35 Hz), 2.30 (s, 3H), 1.45 (s, 6H), 1.21 (t, 3H, J=6.84 Hz); 13C (125 MHz, CDCl3) δ 174.4, 160.2, 159.0, 154.3, 148.9, 144.7, 131.5, 128.1, 122.0, 121.6, 118.7, 115.9, 115.7, 114.9, 79.8, 66.8, 61.3, 25.9, 25.2, 14.1, 10.1; IR (KBr) 2985, 2941, 2809, 2606, 1742, 1731, 1507, 1442, 1277, 1233, 1213, 1170, 1137 cm−1; UV (EtOH) λmax 285 nm (ε 21145), 219 nm (•15842); HRMS (ES+) m/z exact mass calcd for C24H28NO6 426.1917, found 426.1896; Anal. Calc'd for C24H27NO6: C, 67.75; H, 6.40; N, 3.29. Found C, 67.22; H, 6.50; N, 2.79

reactant | 2-(4-{2-[2-(4-benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 15.8 mmol, 8.16 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C31H33NO6
catalyst | palladium on carbon | 1.63 g | [Pd] | Pd
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-{2-[2-(4-hydroxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 6.40 g, 95% | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)O)=O | C24H27NO6
